US06130217
1-(1-Benzhydryl-azetidin-3-ylamino)-3-(2-methyl-benzothiazol-7-yloxy)-propan-2-ol
The title compound was prepared according to Method A from 2-methyl-7-(oxiranyl-2-ylmethoxy)benzothiazole and 3-amino-1-benzhydrylazetidine with dioxane/ethanol (1:1) as the solvent. mp 55° C.; LSIMS m/z 460. The 3-amino-1-benzhydrylazetidine was prepared as described in Preparation 96.

reactant | 2-methyl-7-(oxiranyl-2-ylmethoxy)benzothiazole | CC=1SC2=C(N1)C=CC=C2OC=C2OC2 | C11H9NO2S
reactant | 3-amino-1-benzhydrylazetidine | NC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H18N2
solvent | dioxane ethanol | O1CCOCC1.C(C)O
product | 1-(1-Benzhydryl-azetidin-3-ylamino)-3-(2-methyl-benzothiazol-7-yloxy)-propan-2-ol | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NCC(COC1=CC=CC=2N=C(SC21)C)O | C27H29N3O2S
